US07375131B2
b) 2-[3-(2,2,2-Trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic Acid Amide
Trichloroacetyl isocyanate (10 g, 53 mmol) was added dropwise to the solution of 2-amino-thiophene-3-carboxylic acid amide (3.8 g, 26.5 mmol) in pyridine (110 mL) at 0° C. The resulting reaction mixture was stirred at 0° C. The temperature of the reaction mixture was raised to room temperature over a 3 h period until LC-MS showed no remaining starting material. Diethyl ether (100 mL) was added to the reaction mixture and the resulting precipitate was filtered and dried under vacuum to give the above titled compound as a light grey solid (8.7 g, 26.3 mmol, 99% yield).

reactant | Trichloroacetyl isocyanate | 53 mmol, 10 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | 2-amino-thiophene-3-carboxylic acid amide | 26.5 mmol, 3.8 g | NC=1SC=CC1C(=O)N | C5H6N2OS
reactant | Diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | pyridine | 110 mL | N1=CC=CC=C1 | C5H5N
product | 2-[3-(2,2,2-Trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic Acid Amide | 26.3 mmol, 8.7 g, 99% yield | ClC(C(=O)NC(NC=1SC=CC1C(=O)N)=O)(Cl)Cl | C8H6Cl3N3O3S
